US06720324B2
Into a well-stirred solution of 6-(benzofurazan-5-yl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methyl-1-[(4-nitrophenyl-oxy)carbonyl]pyrimidine (0.310 mmol, 0.140 g) in 1.5 mL of chloroform was added a solution of bromine (0.310 mmol, 0.020 mL) in 1.5 mL of chloroform at 0° C. and the solution was allowed to attain room temperature over 1.5 h. The solvent was removed in vacuo and the residue was again dissolved in CHCl3 (10 mL) and washed with brine. The organic layer was separated, dried over Na2SO4, filtered and the solvent was removed in vacuo to obtain 0.15 g (88% yield) of 6-(benzofurazan-5-yl)-1,6-dihydro-2-oxo-5-methoxycarbonyl-4-bromomethyl-1-[(4-nitrophenyl-oxy)carbonyl]pyrimidine as a yellow foam. The crude product was used in the next step without purification. 1H NMR (CDCl3) δ 3.79 (s, 3 H), 4.72 (ABq, 2 H), 6.47 (s, 1 H), 7.37 (d, J=9.1 Hz, 2 H), 7.51 (d, J=7.8 Hz, 1 H), 7.80 (s, 1 H), 7.92 (d, J=9.1 Hz, 1 H), 8.30 (d, J=9.1 Hz, 2 H).

reactant | 6-(benzofurazan-5-yl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methyl-1-[(4-nitrophenyl-oxy)carbonyl]pyrimidine | 0.310 mmol, 0.140 g | N1=C2C(=NO1)C=C(C=C2)C2C(=C(N=C(N2C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])OC)C)C(=O)OC | C21H17N5O8
reactant | bromine | 0.310 mmol, 0.020 mL | BrBr | Br2
solvent | chloroform | 1.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-(benzofurazan-5-yl)-1,6-dihydro-2-oxo-5-methoxycarbonyl-4-bromomethyl-1-[(4-nitrophenyl-oxy)carbonyl]pyrimidine | 0.15 g, 88% yield | N1=C2C(=NO1)C=C(C=C2)C2C(=C(NC(N2C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])=O)CBr)C(=O)OC | C20H14BrN5O8
